US04497727
A mixture of 0.15 mole of t-butylamine, 0.35 mole of anhydrous, powdered potassium carbonate and 250 moles of ether was stirred mechanically and 0.25 mole of propargylbromide was added dropwise. The mixture was refluxed for about 10 hours. Water was added to dissolve the salt. The ether layer was separated and the aqueous layer was extracted twice with ether. The combined ether solution was dried over anhydrous MgSO4. The dipropargyl-t-butylamine produced was distilled at 63°-65° C./20 mm Hg to yield a yellowish liquid in a 45% yield: IR 3300, 3100, 2980 and 2940 cm-1 ; NMR (CDCl3)δ1.10, 2.20 and 3.45.

reactant | t-butylamine | 0.15 mole | C(C)(C)(C)N | C4H11N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ether | 250 moles | CCOCC | C4H10O
reactant | propargylbromide | 0.25 mole | C(C#C)Br | C3H3Br
solvent | Water | O | H2O
product | dipropargyl-t-butylamine | 45% yield | C(C#C)N(C(C)(C)C)CC#C | C10H15N
